US07495007B2
In a manner similar to the method described in example 4b, E/Z-6-chloro-3-cyclohexylmethylene-1,3-dihydro-indol-2-one (2.71 g, 10.4 mmol) was reacted with ethyl chloroformate (1.47 mL, 15.6 mmol) and triethylamine (2.89 mL, 20.7 mmol) in dichloromethane to give E/Z-6-chloro-3-cyclohexylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester as a brown solid (Yield 3.3 g, 95%).

reactant | Z-6-chloro-3-cyclohexylmethylene-1,3-dihydro-indol-2-one | 10.4 mmol, 2.71 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1CCCCC1 | C15H16ClNO
reactant | ethyl chloroformate | 15.6 mmol, 1.47 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 20.7 mmol, 2.89 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-6-chloro-3-cyclohexylmethylene-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester | Yield 3.3 g, 95% | C(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1CCCCC1)=O | C18H20ClNO3
